US05880130
Using an analogous reaction procedure to that described in Example 6, 6-chloro-4-(4'-hydroxyanilino)pyrimidine (3.2 g) was reacted with 3-methylaniline (5 ml). The product so obtained was triturated under methylene chloride. The solid so obtained was filtered off and extracted with hot water. On cooling a solid precipitated from the aqueous solution. The solid was extracted from the aqueous solution with ethyl acetate, washed with water and with brine, dried (MgSO4) and recrystallised from a mixture of ethyl acetate and hexane to give 4-(4'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine (0.15 g), m.p. 242°-245° C.;

reactant | 6-chloro-4-(4'-hydroxyanilino)pyrimidine | 3.2 g | ClC1=CC(=NC=N1)NC1=CC=C(C=C1)O | C10H8ClN3O
reactant | 3-methylaniline | 5 ml | CC=1C=C(N)C=CC1 | C7H9N
product | 4-(4'-hydroxyanilino)-6-(3'-methylanilino)pyrimidine | 0.15 g | OC1=CC=C(NC2=NC=NC(=C2)NC2=CC(=CC=C2)C)C=C1 | C17H16N4O
